US07820658B2
2-Amino-4-(5-benzyloxy-2,4-dichloro-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid isopropylamide
O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.176 g; 3.07 mmol) was added to 2-Amino-4-(5-benzyloxy-2,4-dichloro-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid.2NaCl (1.33 g; 2.38 mmol) then DMF (25 ml) was added to afford a turbid brown solution. Isopropylamine (1.01 ml; 11.9 mmol) was added and reaction mixture was heated at 60° C. (oil bath temperature) for 18 hours. Reaction mixture was allowed to cool to room temperature and DMF was removed in vacuo. The residue was partitioned between ethyl acetate (200 ml) and water (200 ml). The phases were separated and the organic phase was washed with saturated aqueous sodium chloride solution (200 ml) the dried over anhydrous sodium sulphate, filtered and the filtrate solvents removed in vacuo to afford a yellow solid. The crude product was purified by flash chromatography on silica gel (50 g IST Flash Si cartridge) eluting with a solvent gradient of 20 to 50% ethyl acetate in hexane. This affords product as a colourless solid (0.612 g; 53%)

reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 3.07 mmol, 1.176 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-Amino-4-(5-benzyloxy-2,4-dichloro-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid | NC=1N=C(C2=C(N1)SC(=C2)C(=O)O)C2=C(C=C(C(=C2)OCC2=CC=CC=C2)Cl)Cl | C20H13Cl2N3O3S
reactant | Isopropylamine | 11.9 mmol, 1.01 ml | C(C)(C)N | C3H9N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-(5-benzyloxy-2,4-dichloro-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid isopropylamide | C(C)(C)NC(=O)C1=CC2=C(N=C(N=C2C2=C(C=C(C(=C2)OCC2=CC=CC=C2)Cl)Cl)N)S1 | C23H20Cl2N4O2S
